US07115598B2
a) (3S)-3-(4-Chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-(2-methylphenyl)-1,4-benzodiazepine-2,5-dione
A solution of (3S)-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-iodo-1,4-benzodiazepine-2,5-dione (120 mg, 0.22 mmol), tetrakis(triphenylphosphine)palladium(0) (25 mg, 0.022 mmol), 2-methylbenzene boronic acid (35 mg, 0.26 mmol) and sodium carbonate (220 μL, 2M in H2O) in ethanol (300 μL) and toluene (5 mL) was heated under argon, at 90° C., for 10 h. After the mixture was cooled at room temperature, the solvent was evaporated in vacuo. The residue was partitioned between AcOEt (20 mL) and water (15 mL), dried (Na2SO4) and evaporated. Chromatography on silica (AcOEt/hexanes/CH2Cl2, 1:6:3) afforded the title compound (92 mg, 68%) as a colorless powder: 1H NMR (400 MHz, CDCl3) δ 1.78 (d, J=7.2 Hz, 3H, CH3), 1.99 (s, 3H, CH3), 5.29 (s, 1H, CH), 6.51 (q, J=7.2 Hz, 1H, CH), 6.64–6.67 (m, 2H, ArH, 6.71 (d, J=8.4 Hz, 1H, ArH), 6.93 (d, J=8.4 Hz, 2H, ArH), 7.05–7.11 (m, 1H, ArH), 7.15 (dd, J=8.0 Hz, J=2.0 Hz, 1H, ArH), 7.20–7.26 (m, 3H, ArH), 7.35 (d, J=8.4 Hz, 2H, ArH), 7.56 (d, J=8.4 Hz, 2H, ArH), 7.61 (d, J=2.0 Hz, 1H, ArH), 7.91 (br s, 1H, NH). Mass spectrum (LCMS, ESI pos.): Calcd for C30H24Cl2N2O2: 514.0; found: 515.0 (M+H)+.

reactant | (3S)-3-(4-chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-iodo-1,4-benzodiazepine-2,5-dione | 0.22 mmol, 120 mg | ClC1=CC=C(C=C1)[C@H]1C(NC2=C(C(N1[C@H](C)C1=CC=C(C=C1)Cl)=O)C=C(C=C2)I)=O | C23H17Cl2IN2O2
reactant | 2-methylbenzene boronic acid | 0.26 mmol, 35 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 2M, 220 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 300 μL | C(C)O | C2H6O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3S)-3-(4-Chlorophenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-(2-methylphenyl)-1,4-benzodiazepine-2,5-dione | 92 mg, 68% | ClC1=CC=C(C=C1)[C@H]1C(NC2=C(C(N1[C@H](C)C1=CC=C(C=C1)Cl)=O)C=C(C=C2)C2=C(C=CC=C2)C)=O | C30H24Cl2N2O2
